US03972935
A solution of 23.5 g. of 1-phenyl-1-(2-indanyl)-4-diethylamino-1-butene in 375 cc. of 95 percent (v/v) ethanolbenzene was stirred while 1.5 g. of 5 percent palladium on carbon was added in one portion. The reaction mixture was stirred for six hours at 24°C. under a hydrogen gas atmosphere at 60 p.s.i. After filtering off the hydrogenation catalyst, the filtrate was concentrated to dryness under reduced pressure to provide 1-phenyl-1-(2-indanyl)-4-diethylaminobutane.

reactant | 1-phenyl-1-(2-indanyl)-4-diethylamino-1-butene | C1(=CC=CC=C1)C(=CCCN(CC)CC)C1CC2=CC=CC=C2C1 | C23H29N
catalyst | palladium on carbon | [Pd] | Pd
product | 1-phenyl-1-(2-indanyl)-4-diethylaminobutane | C1(=CC=CC=C1)C(CCCN(CC)CC)C1CC2=CC=CC=C2C1 | C23H31N
